US05660814
To 217 g of diethylenetriamine (product commercially available) (2.1 mol), under stirring and under nitrogen atmosphere, 259 g of compound (A) 3-[(2-chloroacetyl) amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid (0.40 mol) are added. The mixture is kept at 50° C. for 3 h and, after cooling, is extracted with three 500-ml portions of CH2Cl2. After evaporation of the solvent, the residue is dissolved in 500 ml of H2O and acidified with 300 ml of 37% HCl. The resulting solution is counterflow extracted according to Craig with n-BuOH. A residue is obtained, which is purified as trihydrochloride by crystallisation in abs. EtOH after addition of 37% HCl. 187 g of 3-[[[2-[(2-aminoethyl)amino]ethyl]amino]acetylamino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid (0.227 mol) are obtained.

reactant | diethylenetriamine | 217 g | NCCNCCN | C4H13N3
reactant | 3-[(2-chloroacetyl) amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.40 mol | ClCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C13H13ClI3NO3
product | 3-[[[2-[(2-aminoethyl)amino]ethyl]amino]acetylamino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.227 mol, 187 g, Yield: 57 % | NCCNCCNCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C17H25I3N4O3
